US07348456B2
Step A: 3-Chloro-5-fluorophenol
To a solution of 1-bromo-3-chloro-5-fluorobenzene (16 g, 76 mmol) in 250 mL of anhydrous ether at −78° C. was added tert-butyllithium (1.7 M, 100 mL, 170 mmol). After stirring at −78° C. for 1 h, trimethyl borate (20 mL, 176 mmol) was added, and the reaction was allowed to warm to room temperature overnight. The resulting mixture was cooled to −10° C., and was added peracetic acid (32% in acetic acid, 35 mL). After stirring at 0° C. for 30 min, potassium bisulfite (5 g) was added. After stirring at room temperature for 30 min, the aqueous layer was separated and the organic mixture was extracted with 3 M aqueous sodium hydroxide (3×100 mL). The aqueous extracts were acidified with concentrated hydrochloric acid (pH=2), and was extracted with ether (3×150 mL). The combined ether extracts were dried over anhydrous magnesium sulfate, filtered and concentrated to afford the crude phenol, which was azeotroped with heptane (100 mL) to remove traces of acetic acid to give the title compound. 1H NMR (500 MHz, CD3OD): δ 7.51 (br s, 1H), 7.35 (br d, 1H), 7.21 (m, 1H).

reactant | 1-bromo-3-chloro-5-fluorobenzene | 76 mmol, 16 g | BrC1=CC(=CC(=C1)F)Cl | C6H3BrClF
reactant | tert-butyllithium | 170 mmol, 1.7 M, 100 mL | C(C)(C)(C)[Li]
reactant | trimethyl borate | 176 mmol, 20 mL | B(OC)(OC)OC | C3H9BO3
reactant | peracetic acid | 35 mL | C(C)(=O)OO | C2H4O3
reactant | potassium bisulfite | 5 g | S([O-])(O)=O.[K+]
solvent | ether | 250 mL | CCOCC | C4H10O
product | 3-Chloro-5-fluorophenol | ClC=1C=C(C=C(C1)F)O | C6H4ClFO
